US07652022B2
Stage 134.2: (3-Amino-5-trifluoromethyl-phenyl)-(4-ethyl-piperazin-1-yl)-methanone
Hydrogenation of (3-nitro-5-trifluoromethyl-phenyl)-(4-ethyl-piperazin-1-yl)-methanone (16.5 g, 50 mmol) in ethanol (300 ml) In the presence of Raney-Nickel (3 g), filtration through celite, concentration of the filtrate and crystallization from hexane gives the title compound: m.p.: 104° C.; MS: [M+1]+=302; 1H-NMR (CDCl3): 6.96 (s, 1H), 6.91 (s, 1H), 6.83 (s, 1H), 3.99 (sb, H2N), 3.80 (m, 2H), 3.44 (m, 2H), 2.53 (m, 2H), 2.46 (q, 2H), 2.40 (m, 2H), 1.12 (t, 3H).

reactant | (3-nitro-5-trifluoromethyl-phenyl)-(4-ethyl-piperazin-1-yl)-methanone | 50 mmol, 16.5 g | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1CCN(CC1)CC | C14H16F3N3O3
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | Raney-Nickel | 3 g | [Ni] | Ni
product | (3-Amino-5-trifluoromethyl-phenyl)-(4-ethyl-piperazin-1-yl)-methanone | NC=1C=C(C=C(C1)C(F)(F)F)C(=O)N1CCN(CC1)CC | C14H18F3N3O
